### PR TITLE
[Merged by Bors] - feat(push_neg): tag `not_frequently` and `not_eventually`

### PR DESCRIPTION
**Pull request by JovanGerb**
This PR add support for `not_frequently` and `not_eventually` in the `push_neg` tactic, and it refactors some proofs using this.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Analytic/Order.lean [hunk 1]
```diff
@@ -81,7 +81,7 @@ lemma AnalyticAt.analyticOrderAt_eq_natCast (hf : AnalyticAt 𝕜 f z₀) :
   unfold analyticOrderAt
   split_ifs with h
   · simp only [ENat.top_ne_coe, false_iff]
-    contrapose! h
+    contrapose h; push_neg at h
```
Comment (grunweg) [inline Mathlib/Analysis/Analytic/Order.lean]: Is this intentional? If so, why is this necessary?

File: Mathlib/Analysis/Complex/OpenMapping.lean [hunk 2]
```diff
@@ -141,6 +141,7 @@ theorem AnalyticAt.eventually_constant_or_nhds_le_map_nhds {z₀ : E} (hg : Anal
     simpa only [ray, gray, w, smul_smul, mul_inv_cancel₀ h', one_smul, add_sub_cancel,
       Function.comp_apply, coe_smul] using h3 (↑‖z - z₀‖) h4
   · right
+    simp only [not_forall] at h
```
Comment (grunweg) [inline Mathlib/Analysis/Complex/OpenMapping.lean:144]: Ah, is this a case where `by_cases!` becomes too powerful now, so you have to revert to `by_cases`?

File: Mathlib/Analysis/Complex/OpenMapping.lean [hunk 3]
```diff
@@ -156,10 +157,11 @@ is analytic on a connected set `U`, then either it is constant on `U`, or it is
 sense that it maps any open set contained in `U` to an open set in `ℂ`). -/
 theorem AnalyticOnNhd.is_constant_or_isOpen (hg : AnalyticOnNhd ℂ g U) (hU : IsPreconnected U) :
     (∃ w, ∀ z ∈ U, g z = w) ∨ ∀ s ⊆ U, IsOpen s → IsOpen (g '' s) := by
-  by_cases! h : ∃ z₀ ∈ U, ∀ᶠ z in 𝓝 z₀, g z = g z₀
+  by_cases h : ∃ z₀ ∈ U, ∀ᶠ z in 𝓝 z₀, g z = g z₀
   · obtain ⟨z₀, hz₀, h⟩ := h
     exact Or.inl ⟨g z₀, hg.eqOn_of_preconnected_of_eventuallyEq analyticOnNhd_const hU hz₀ h⟩
-  · refine Or.inr fun s hs1 hs2 => isOpen_iff_mem_nhds.mpr ?_
+  · simp only [not_exists, not_and] at h
```
Comment (grunweg) [inline Mathlib/Analysis/Complex/OpenMapping.lean:163]: Same question here.

File: Mathlib/Analysis/Analytic/Order.lean (hunk 1 above)
Comment (grunweg) [reply Mathlib/Analysis/Analytic/Order.lean]: This will be fixed by implementing https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/RFC.3A.20contrapose.20for.20.60a.20.E2.86.94.20b.60/with/554885647.

File: Mathlib/Analysis/Complex/OpenMapping.lean (hunk 2 above)
Comment (grunweg) [reply Mathlib/Analysis/Complex/OpenMapping.lean:144]: Discussed in person: yes, it is. This particular instance could be fixed by tweaking the statement of `eventually_constant_or_nhds_le_map_nhds_aux` (which is used only once)... which might not be worth the effort.

File: Mathlib/Analysis/Complex/OpenMapping.lean (hunk 3 above)
Comment (grunweg) [reply Mathlib/Analysis/Complex/OpenMapping.lean:163]: This is a similar case, but the lemma `eventually_constant_or_nhds_le_map_nhds` seems useful in its current form. Adding a new variant just for using it once seems not worth it. In short, I'm fine with accepting both of these changes as a side-effect.

File: Mathlib/MeasureTheory/Function/ConvergenceInMeasure.lean [hunk 4]
```diff
@@ -291,19 +291,16 @@ theorem exists_seq_tendstoInMeasure_atTop_iff [IsFiniteMeasure μ]
...
       ∀ ns : ℕ → ℕ, StrictMono ns → ∃ ns' : ℕ → ℕ, StrictMono ns' ∧
         ∀ᵐ (ω : α) ∂μ, Tendsto (fun i ↦ f (ns (ns' i)) ω) atTop (𝓝 (g ω)) := by
-  refine ⟨fun hfg _ hns ↦ (hfg.comp hns.tendsto_atTop).exists_seq_tendsto_ae,
-    not_imp_not.mp (fun h1 ↦ ?_)⟩
-  rw [tendstoInMeasure_iff_tendsto_toNNReal] at h1
-  push_neg at *
-  obtain ⟨ε, hε, h2⟩ := h1
+  refine ⟨fun hfg _ hns ↦ (hfg.comp hns.tendsto_atTop).exists_seq_tendsto_ae, fun h1 ↦ ?_⟩
+  rw [tendstoInMeasure_iff_tendsto_toNNReal]
+  by_contra! h; rcases h with ⟨ε, hε, h2⟩
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Function/ConvergenceInMeasure.lean:336]: A future extension of `by_contra!` (with patterns) will allow shortening this to one tactic invocation. No action necessary.

File: Mathlib/Topology/Semicontinuous.lean [hunk 5]
```diff
@@ -356,12 +356,13 @@ variable {γ : Type*} [CompleteLinearOrder γ]
...
     LowerSemicontinuousWithinAt f s x ↔ f x ≤ liminf f (𝓝[s] x) := by
   constructor
-  · intro hf; unfold LowerSemicontinuousWithinAt at hf
-    contrapose! hf
-    obtain ⟨z, ltz, y, ylt, h₁⟩ := hf.exists_disjoint_Iio_Ioi; use y
-    exact ⟨ylt, fun h => ltz.not_ge
+  · intro h; unfold LowerSemicontinuousWithinAt at h
+    by_contra! hf
+    obtain ⟨z, ltz, y, ylt, h₁⟩ := hf.exists_disjoint_Iio_Ioi
+    specialize h y ylt
```
Comment (grunweg) [inline Mathlib/Topology/Semicontinuous.lean]:
```suggestion
```

File: Mathlib/Topology/Semicontinuous.lean [hunk 6]
```diff
@@ -356,12 +356,13 @@ variable {γ : Type*} [CompleteLinearOrder γ]
...
+    exact ltz.not_ge
       (le_liminf_of_le (by isBoundedDefault) (h.mono fun _ h₂ =>
```
Comment (grunweg) [inline Mathlib/Topology/Semicontinuous.lean]:
```suggestion
      (le_liminf_of_le (by isBoundedDefault) ((h y ylt).mono fun _ h₂ =>
```

File: Mathlib/Order/Filter/Ultrafilter/Defs.lean [hunk 7]
```diff
@@ -161,6 +161,7 @@ protected theorem em (f : Ultrafilter α) (p : α → Prop) : (∀ᶠ x in f, p
 theorem eventually_or : (∀ᶠ x in f, p x ∨ q x) ↔ (∀ᶠ x in f, p x) ∨ ∀ᶠ x in f, q x :=
   union_mem_iff
 
+@[push ← high] -- higher priority than `Filter.not_evenutally`
```
Comment (grunweg) [inline Mathlib/Order/Filter/Ultrafilter/Defs.lean]:
```suggestion
@[push ← high] -- higher priority than `Filter.not_eventually`
```

**Review by grunweg — COMMENTED** [review]
Thanks! I've asked all my questions in person - LGTM with nits addressed.
bors d+

File: Mathlib/Analysis/Analytic/Order.lean (hunk 1 above)
Comment (grunweg) [reply Mathlib/Analysis/Analytic/Order.lean]: ... which #31510 does.

**Comment by JovanGerb** [comment]
I'll wait with merging this PR until #31510 is merged, to avoid a potential merge conflict.
